US05753679
0.38 g (0.001.41 mol) of 1-(3-bromo-benzyl)-piperidin-4-ol and 0.49 ml (0.0035 mol) of triethylamine were dissolved in 4 ml of toluene, treated with 0.23 ml (0.00176 mol) of p-toluoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:4). 0.358 g (65%) of 1-(3-bromo-benzyl)-piperidin-4-yl 4-methyl-benzoate was obtained as a yellow oil.

reactant | 1-(3-bromo-benzyl)-piperidin-4-ol | 0.38 g | BrC=1C=C(CN2CCC(CC2)O)C=CC1 | C12H16BrNO
reactant | triethylamine | 0.0035 mol, 0.49 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.00176 mol, 0.23 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-bromo-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.358 g, 65% | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC(=CC=C2)Br)C=C1 | C20H22BrNO2
